Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Admit for TACE
 
Major Surgical or Invasive Procedure:
TACE
 
History of Present Illness:
This is a ___ yo male with h/o recently diagnosed HCC admitted 
today for transarteriam chemoembolization, admitted for post 
procedure care. Of note, during the procedure, pt noted to have 
sinus bradycardia, which was treated with Atropine.  
 
Upon arrival to the floor, inital vital signs were 96.0, BP 
132/59, 50, 20, 95%RA.   
 
ROS: as per HPI, otherwise patient feels well.  Currently 
denying any pain, difficulty breathing, chest pain, nausea, or 
vomiting.  All else negative.   

 
Past Medical History:
1. Hepatitis C cirrhosis  
2. History of esophageal varices grade II  
3. Non-insulin-dependent diabetes mellitus  
4. History of shingles  
5. Gout? 

ONCOLOGIC HISTORY: Diagnosed with hepatocellular carcinoma 
occurring in the setting of hepatitis C cirrhosis by screening 
ultrasound in ___. Abdominal CT identified three lesions 
with charactistics consistent with HCC in the right liver. Liver 
biopsy in ___ was diagnostic. The lesions have slowly 
increased in size, and AFP was greater than 200 ng/dL in 
___. Most recent CT in ___ identified four lesions in 
the dome and right liver, with two dominant lesions grown in 
size. These are not amenable to RFA given the location, and 
transarterial chemoembolization was recommended. 
 
Social History:
___
Family History:
His mother had bladder cancer. 
 
Physical Exam:
VS-96.0 132/59 50 20 95RA  
Gen- well appearing, lying in bed, NAD
HEENT- PERRL
CV-RRR
Resp- CTA B/L 
Abd-  soft NTND
Ext- no edema
Neuro- AAOx3

 
Pertinent Results:
WBC Hgb Hct Plt Ct  
___ 07:30 4.7 12.2* 35.0* 107*  
___ PTT INR  
___ 07:30 14.4* 29.8 1.3*  

BUN Creat  
___ 07:30 17 1.0  
 
ALT AST AlkPhos TotBili  
___ 07:30 36 75* 141* 1.8*  
 
Albumin Calcium  
___ 07:30 3.4* 9.1  
___ 07:30 AFP 657.3*  

Imaging:  
CXR ___: IMPRESSION: Overall slight improvement compared to 
___ film but likely right-sided subpulmonic effusion. If 
clinically warranted, decubitus film could further evaluate 
possible effusion. Evidence of increased venous pressure with 
possible element of right heart failure.  

Transthoracic Echo ___ at 2:10:00 

PMLEFT ATRIUM: Mild ___. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Moderately dilated RA. 

LEFT VENTRICLE: Normal LV wall thickness, cavity size and 
regional/global systolic function (LVEF >55%). Doppler 
parameters are most consistent with Grade I (mild) LV diastolic 
dysfunction. No resting LVOT gradient. 

RIGHT VENTRICLE: RV hypertrophy. Mildly dilated RV cavity. 
Normal RV systolic function. 

AORTA: Mildly dilated aortic sinus. Mildly dilated ascending 
aorta. Normal aortic arch diameter. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. No MVP. 
Mild (1+) MR. 

___ VALVE: Normal tricuspid valve leaflets. Moderate [2+] 
TR. Severe PA systolic hypertension. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Echocardiographic results were reviewed by 
telephone with the houseofficer caring for the patient.  
Conclusions  
The left atrium is mildly dilated. The right atrium is 
moderately dilated. Left ventricular wall thickness, cavity size 
and regional/global systolic function are normal (LVEF >55%). 
Doppler parameters are most consistent with Grade I (mild) left 
ventricular diastolic dysfunction. The right ventricular free 
wall is hypertrophied. The right ventricular cavity is mildly 
dilated with normal free wall contractility. The aortic root is 
mildly dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. There is severe 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: Severe pulmonary hypertension with hypertrophied and 
dilated right ventricle. Preserved biventricular systolic 
function. Mild mitral regurgitation.
 

 
Brief Hospital Course:
The patient is a ___ yo male with hepatocellular carcinoma 
admitted after transarterial chemoembolization (TACE) of his 
liver tumors. 

# HCC s/p TACE
The patient's platelet count decreased (nadir of 69k on ___ 
and his liver functions increased (peak AST 880* ALT 1872* LDH 
693* on ___ and peak Tbili of 3.5 on ___. These ranges are 
often seen after chemoembolization; all values were trending 
down prior to discharge (labs at discharge: 529, AST 633, LDH 
236, Alkaline Phosphatase 96 and Total Bili 3.4). 
He was assymptomatic and had no clinical complications from his 
procedure. He began 7 day course of ciprofloxicin that will 
finish on ___. He continued his home Ursodiol in the hospital, 
and will follow up with his primary oncologist, Dr. ___, at 
___. In addition, he will undergo a follow up CT of his 
abdomen as an outpatient.  He was asked to arrange follow up 
with his PCP ___ ___ weeks, repeat Chem 7 and LFT's should be 
rechecked at that visit.  

# Acute renal failure, mild
The patient's cre was noted to bump on hospital day 3 to 1.3; 
diuretics were held x 1 day with improvement to 1.1 on the day 
of discharge. 

# Severe Pulmonary Hypertension **new diagnosis
The patient had a brief episode of pulmonary edeam during the 
procedure and a second episode on the floor that responded to 
lasix. An echo was ontained on ___ that showed severe pulmonary 
hypertension. This will require outpatient follow up.  See ___ 
report above for details.

# HCV CIrrhosis, Diabetes, Gout
He continued his home Lasix, Spiranolactone, Nadolol, and 
Ranitidine for his HCV cirrhosis/Varices as an inpatient. The 
patient's Metformin was held 48 hours post procedure and he was 
continued on his Glipizide with a sliding scale of insulin for 
his diabetes. At the time of his discharge he will continue his 
home Colchicine for gout.

 
Medications on Admission:
Colchicine 0.6 mg twice a day  
Furosemide [Lasix] 40 mg once a day  
Glipizide 5 mg twice a day  
Metformin 500 mg twice a day  
Nadolol 20 mg once a day  
Spironolactone [Aldactone] 50 mg twice a day  
Tadalafil [Cialis] 10 mg one hour prior to sexual activity  
Ursodiol 500 mg three times a day  
Zolpidem 2.5 mg qhs  
Ranitidine 150 mg twice daily  
Vitamin E 400 unit once a day  

 
Discharge Medications:
1. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO Q 12H (Every 
12 Hours).  
2. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Nadolol 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Spironolactone 25 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
5. Ursodiol 250 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
6. Zolpidem 5 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  
7. Glipizide 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 2 days.
Disp:*4 Tablet(s)* Refills:*0*
9. Metformin 500 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
10. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hepatocellular cancer
Hepatitis C cirrhosis  
Non-insulin-dependent diabetes mellitus  
History of shingles  
History of esophageal varices grade II  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after your TACE procedure for your liver 
cancer to observe your liver and blood labs. Of note, during 
your procedure, your heart rate slowed and you were treated with 
a medicine called Atropine. Your did well after your procedure. 
You had some mild shortness of breath when you got intravenous 
fluid during the TACE. This went away with your Lasix medicine 
and you should continue this medication when you go home. Your 
liver function test levels and platelet level (blood clotting 
cells) became abnormal in the range that is commonly seen after 
the TACE procedure. These lab values began to normalize before 
you went home. 
Make sure to keep your appointment for your follow up CAT scan 
on ___ 11:00. 
The echo of your heart showed a condition called pulmonary 
hypertension that is probably related to your cirrhosis and that 
you should follow up with your primary physician.

 
Followup Instructions:
___